US08703941B2
Into a 50-mL round-bottom flask, was placed 4-chloro-6-ethylthieno[2,3-d]pyrimidine (200 mg, 1.01 mmol, 1.00 equiv), cyclohexane-1,4-diamine (600 mg, 5.25 mmol, 5.22 equiv) in anhydrous N,N-dimethylformamide (5 mL) at room temperature. Then triethylamine (300 mg, 2.96 mmol, 2.95 equiv) was added via syringe and the resulting solution was stirred overnight at ambient temperature. After completion of the reaction, the resulting solution was diluted H2O, extracted with 3×30 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. This desired 1-N-[6-ethylthieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine (0.3 g, crude) was obtained as a off-white solid which was used for next step without further purification.

reactant | 4-chloro-6-ethylthieno[2,3-d]pyrimidine | 1.01 mmol, 200 mg, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)CC | C8H7ClN2S
reactant | cyclohexane-1,4-diamine | 5.25 mmol, 600 mg, 5.22 equiv | C1(CCC(CC1)N)N | C6H14N2
reactant | triethylamine | 2.96 mmol, 300 mg, 2.95 equiv | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-N-[6-ethylthieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine | 0.3 g | C(C)C1=CC2=C(N=CN=C2NC2CCC(CC2)N)S1 | C14H20N4S
